US08791142B2
Step 1) N′-hydroxy-6-(hydroxymethyl)nicotinimidamide
A solution of 6-(hydroxymethyl)nicotinonitrile (ChemPacific, 0.698 g; 5.2 mmol) and 50% aqueous hydroxylamine (1.6 mL) in ethanol (10 mL) was heated at 80° C. for 3 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was passed through a hydrophobic frit and evaporated in vacuo. The resultant solid was washed with MeCN and dried to afford the title product (0.850 g, 98%). 1H NMR (DMSO-d6, 400 MHz) δ 9.79 (1 H, s), 8.79 (1 H, d, J=2.2 Hz), 8.05 (1 H, dd, J=8.2, 2.3 Hz), 7.49 (1 H, d, J=8.2 Hz), 5.98 (2 H, s), 5.56-5.40 (1 H, m), 4.60 (2 H, d, J=4.8 Hz).

reactant | 6-(hydroxymethyl)nicotinonitrile | 5.2 mmol, 0.698 g | OCC1=NC=C(C#N)C=C1 | C7H6N2O
reactant | hydroxylamine | 1.6 mL | NO | H3NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N′-hydroxy-6-(hydroxymethyl)nicotinimidamide | 0.850 g, 98% | ON=C(C1=CN=C(C=C1)CO)N | C7H9N3O2
